US03947580
By following the procedures outlined in Examples 1 and 3, 3,4-diethoxyphenylacetonitrile is reacted with diethyl oxalate in alcoholic sodium ethoxide solution to give ethyl 3-cyano-3-(3',4'-diethoxyphenyl)pyruvate. This compound is similarly reacted with 3,4-diethoxyphenylacetonitrile which results in the formation of 2,5-di-(3',4'-diethoxyphenyl)-3,4-dioxoadiponitrile. The latter is refluxed with water, acetic acid and sulfuric acid to give 3,4,3',4'-tetraethoxypulvinic acid which is treated with acetic anhydride to give the corresponding acid lactone.

reactant | 3,4-diethoxyphenylacetonitrile | C(C)OC=1C=C(C=CC1OCC)CC#N | C12H15NO2
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | sodium ethoxide | [O-]CC.[Na+]
product | ethyl 3-cyano-3-(3',4'-diethoxyphenyl)pyruvate | C(#N)C(C(C(=O)OCC)=O)C1=CC(=C(C=C1)OCC)OCC | C16H19NO5
